US05198014
A stirred solution of 44.0 grams (0.21 mole) of 3-chloro-5-trifluoromethylpyridin-2-ylhydrazine and 38.6 grams (0.21 mole) of ethyl 2-acetyl-3-dimethylaminoacrylate, prepared by the method of J. R. Beck et al., J. Het. Chem., 24, 693 (1987), in 1000 mL of ethanol was heated at reflux for five hours. After this time, the reaction mixture was cooled to ambient temperature and concentrated under reduced pressure to a residual oil. The oil was taken up in methylene chloride and washed in succession with two 100 mL portions of aqueous 10% hydrochloric acid, an aqueous solution saturated with sodium bicarbonate, and water. The organic layer was dried and filtered. The filtrate was concentrated under reduced pressure, yielding 48.9 grams of 4-ethoxycarbonyl-5-methyl-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazole. The nmr spectrum was consistent with the proposed structure.

reactant | 3-chloro-5-trifluoromethylpyridin-2-ylhydrazine | 0.21 mole, 44.0 grams | ClC=1C(=NC=C(C1)C(F)(F)F)NN | C6H5ClF3N3
reactant | ethyl 2-acetyl-3-dimethylaminoacrylate | 0.21 mole, 38.6 grams | C(C)(=O)C(C(=O)OCC)=CN(C)C | C9H15NO3
solvent | ethanol | 1000 mL | C(C)O | C2H6O
product | 4-ethoxycarbonyl-5-methyl-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazole | 48.9 grams | C(C)OC(=O)C=1C=NN(C1C)C1=NC=C(C=C1Cl)C(F)(F)F | C13H11ClF3N3O2
